US04335098
A mixture of 24.2 g (0.1 mole) of 3,7,11-trimethyldodecanoic acid and 21.0 g (0.1 mole) of trifluoroacetic anhydride is stirred at reflux for 1/2 hour. The mixture is cooled and 18.0 g (0.1 mole) of ethyl 3-(2-furanyl)-2-methylpropenoate is added. The mixture is cooled to about 0° C. and 5 drops of 70% perchloric acid is added. The mixture is stirred at 0° C. for 2 hours, then diluted with anhydrous ether and treated with saturated aqueous sodium carbonate solution until basic. The layers are separated and the ether layer washed with water, brine and evaporated to dryness. The residue is distilled at reduced pressure to give ethyl 2-methyl-3-[5-(1-oxo-3,-7,11-trimethyldodecyl)-2-furanyl]-2-propenoate.

reactant | 3,7,11-trimethyldodecanoic acid | 0.1 mole, 24.2 g | CC(CC(=O)O)CCCC(CCCC(C)C)C | C15H30O2
reactant | trifluoroacetic anhydride | 0.1 mole, 21.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl 3-(2-furanyl)-2-methylpropenoate | 0.1 mole, 18.0 g | O1C(=CC=C1)C=C(C(=O)OCC)C | C10H12O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | perchloric acid | 5 drops | Cl(=O)(=O)(=O)O | ClHO4
solvent | ether | CCOCC | C4H10O
product | ethyl 2-methyl-3-[5-(1-oxo-3,-7,11-trimethyldodecyl)-2-furanyl]-2-propenoate | CC(C(=O)OCC)=CC=1OC(=CC1)C(CC(CCCC(CCCC(C)C)C)C)=O | C25H40O4
